US09145415B2
To a solution of 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carbaldehyde oxime (S21, 705 mg) in N,N-dimethylformamide (6.0 mL), pyridine (20.6 μL) and N-chlorosuccinimide (471 mg) were added under ice cooling, and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was cooled to room temperature, then a solution of N-(3-butynyl)phthalimide (765 mg) and triethylamine (603 μL) in tetrahydrofuran (8.5 mL) was added to the reaction mixture, and the mixture was stirred at 50° C. for 2 hours. The reaction mixture was cooled to room temperature, and then ethyl acetate and water were added to the reaction mixture. The organic layer was separated, washed successively with water and saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 2-(2-(3-(4-(benzyloxy)-2-(methylthio)pyrimidin-5-yl)isoxazol-5-yl)ethyl)isoindoline-1,3-dione (S22, 439 mg).

reactant | 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carbaldehyde oxime | 705 mg | C(C1=CC=CC=C1)OC1=NC(=NC=C1C=NO)SC | C13H13N3O2S
reactant | N-chlorosuccinimide | 471 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-(3-butynyl)phthalimide | 765 mg | C(CC#C)N1C(C=2C(C1=O)=CC=CC2)=O | C12H9NO2
reactant | triethylamine | 603 μL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
solvent | pyridine | 20.6 μL | N1=CC=CC=C1 | C5H5N
solvent | tetrahydrofuran | 8.5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-(3-(4-(benzyloxy)-2-(methylthio)pyrimidin-5-yl)isoxazol-5-yl)ethyl)isoindoline-1,3-dione | 439 mg | C(C1=CC=CC=C1)OC1=NC(=NC=C1C1=NOC(=C1)CCN1C(C2=CC=CC=C2C1=O)=O)SC | C25H20N4O4S
